US05952327
100 ml of dibenzyl phosphite, 12.5 g of paraformaldehyde and 6.2 ml of triethylamine were mixed together with stirring. On slow warming to 55° C., a temperature increase to 120° C. took place. The solution, which was now clear, was allowed to cool to 90° C. and was stirred at this temperature for a further 30 minutes. After cooling to room temperature, it was chromatographed on 1 kg of silica gel at elevated pressure (eluent: n-hexane/ethyl acetate 1:4). After concentrating the fractions and drying the residue in vacuo at 60° C. for 12 hours, 96.1 g of pure, oily dibenzyl hydroxymethylphosphonate were obtained, which was reacted without further purification.

reactant | dibenzyl phosphite | 100 ml | P(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)[O-]
reactant | paraformaldehyde | 12.5 g | C=O | CH2O
solvent | triethylamine | 6.2 ml | C(C)N(CC)CC | C6H15N
product | dibenzyl hydroxymethylphosphonate | OCP(OCC1=CC=CC=C1)(OCC1=CC=CC=C1)=O | C15H17O4P
